US08426411B2
EtOAc (580 mL) was added to a round bottom flask charged with 10 wt % Pd/C (7.6 g, 7.1 mmol) at about 0° C., under a nitrogen atmosphere. The cooling bath was removed and ethyl 2-methyl-4-oxocyclopent-2-enecarboxylate (60.0 g, 357 mmol) was added. Hydrogen gas was bubbled through the mixture for about 5 min and the mixture was then stirred under a hydrogen atmosphere (1 atmosphere) for about 48 h. The hydrogen source was removed and the mixture was bubbled with nitrogen for about 5 min and was filtered through a pad of Celite®. The filter cake was rinsed with EtOAc (500 mL). The filtrate was concd under reduced pressure to give ethyl 2-methyl-4-oxocyclopentanecarboxylate (59.9 g, 99%) as a yellow liquid: 1H NMR (CDCl3) δ 4.23-4.14 (m, 2H), 3.18 (ddd, J=5.6, 6.8, 8.1 Hz, 1H), 2.73-2.65 (m, 1H), 2.60 (ddd, J=1.7, 5.5, 18.7 Hz, 1H), 2.42-2.29 (m, 2H), 2.15 (ddd, J=1.7, 7.9, 18.3 Hz, 1H), 1.29 (t, J=7.1 Hz, 3H), 1.07 (d, J=7.0 Hz, 3H).

reactant | ethyl 2-methyl-4-oxocyclopent-2-enecarboxylate | 357 mmol, 60.0 g | CC=1C(CC(C1)=O)C(=O)OCC | C9H12O3
catalyst | Pd/C | 7.1 mmol, 7.6 g | [Pd] | Pd
solvent | EtOAc | 580 mL | CCOC(=O)C | C4H8O2
product | ethyl 2-methyl-4-oxocyclopentanecarboxylate | 59.9 g, 99% | CC1C(CC(C1)=O)C(=O)OCC | C9H14O3
